Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.0806507358099995
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-2.96165155004
[O:1]=[C:2]([H:3])[O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[O:4][C:5]=[C:9]([H:10])[H:11],5.69084734737
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],2.73673643064
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],1.76109797148
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]1[H:11],-4.96436270878
[H:1][C:2][O:3][C:4]([C:5]#[C:7][H:8])=[C:9]([H:10])[H:11].[H:6]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7][H:8])=[C:9]([H:10])[H:11],-1.9790915708400003
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[C:2]#[C:3][C:4]([H:5])([H:6])[H:7].[H:1],5.97136626119
[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-0.98370941357
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([O:4][H:5])=[C:6][H:7],1.95392229808
[H:11].[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[O:12][H:13]>>[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13],-4.58794009891
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][C:2]=[O:3],1.79811217599
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][H:7],-0.490575338451
[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.3185712513
[C:3]#[C:4][O:5][H:6].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4][O:5][H:6],-8.14356452991
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([H:3])=[C:4][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],4.4599101396
[H:1][C:2]#[C:3][O:4][C:5][C:7]([H:8])([H:9])[H:10].[H:6]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-4.0761751785900024
[C:2]#[C:3][C:4]([O:5][H:6])[O:7][H:8].[H:1]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][H:8],-3.86220357648
[H:1][C:2][C:3]([C:4][O:5][H:6])[C:7]([H:8])=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.80071726632
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][H:8]>>[H:1].[O:2]=[C:3]=[C:4][C:5]([H:6])[O:7][H:8],1.08171828751
[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.59751263181
[H:1][C:2][H:3].[O:4]=[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10],-2.6135542374500003
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:1].[C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],3.88394960993
[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.35484542293
[H:11].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.91840815636
[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:12].[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][H:11],5.27438099637
[H:1][C:2]#[C:3][O:4][C:5][H:6].[O:7][H:8]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][H:8],-5.6411527041900005
[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:11]([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.77074230241
[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.93031396227
